US05235056
1-Hydroxy-2,6-diphenyl-4,4-dihexyloxypiperidine
A solution of 10.0 g (0.035 mole) 1-hydroxy-2,6-diphenyl-4-piperidone oxime, 22.0 g (0.22 moles) 1-hexanol and 7.0 g (0.073 moles) methanesulfonic acid in 250 mL tetrahydrofuran is heated at 60° C. for 12 hours. The solution is then washed three times with 10% aqueous sodium carbonate solution. The organic phase is dried over anhydrous sodium sulfate and concentrated. 3.2 g (20% yield) of the title compound is isolated as a clear oil after purification by LC (silica gel, ethyl acetate:hexane).

reactant | 1-hydroxy-2,6-diphenyl-4-piperidone oxime | 0.035 mole, 10.0 g | ON1C(CC(CC1C1=CC=CC=C1)=NO)C1=CC=CC=C1 | C17H18N2O2
reactant | 1-hexanol | 0.22 moles, 22.0 g | C(CCCCC)O | C6H14O
reactant | methanesulfonic acid | 0.073 moles, 7.0 g | CS(=O)(=O)O | CH4O3S
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 1-Hydroxy-2,6-diphenyl-4,4-dihexyloxypiperidine | 3.2 g, 20% yield | ON1C(CC(CC1C1=CC=CC=C1)(OCCCCCC)OCCCCCC)C1=CC=CC=C1 | C29H43NO3
